US07713994B2
6-methoxy-isoquinoline-1,3(2H,4H)-dione
2-Carboxymethyl-4-methoxy-benzoic acid (946 mg, 4.5 mmole) and urea (629 mg, 10.4 mmole) is stirred and heated using an oil bath at 180° C. After one hour the mixture is cooled to room temperature and treated with water, collected by filtration, washed with water and dried to give a brown solid, 498 mg, (57%); mp 212-5° C., MS (ESI): m/z 192.1 (M+H).

reactant | 2-Carboxymethyl-4-methoxy-benzoic acid | 4.5 mmole, 946 mg | C(=O)(O)CC1=C(C(=O)O)C=CC(=C1)OC | C10H10O5
reactant | urea | 10.4 mmole, 629 mg | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 6-methoxy-isoquinoline-1,3(2H,4H)-dione | COC=1C=C2CC(NC(C2=CC1)=O)=O | C10H9NO3
